US09126975B2
For reference purposes 2-((4R,6S)-6-((E)-2-(4-(4-fluorophenyl)-6-isopropyl-2-(N-methylmethylsulfonamido)pyrimidin-5-yl)vinyl)-2,2-dimethyl-1,3-dioxan-4-yl)acetate 4-methylpentan-2-yl ester was prepared from rosuvastatin methyl ester (EP 521471). Thus, rosuvastatin methyl ester (30 g, 61 mmol) was added to 200 mL of acetonitrile and 2N aqueous NaOH was added until the pH was stable at 12.5. The reaction mixture was stirred for 2 h at 20° C. Then the pH was lowered to 5.0 with 2N aqueous HCl. To the reaction mixture was added 200 mL of ethyl acetate and the organic phase was separated and washed 2 times with 100 mL of water. The ethyl acetate phase was dried over Na2SO4, filtered and evaporated to a syrup (≈30 g of rosuvastatin acid). Part of this syrup (20 g) was dissolved in toluene and heated to reflux under azeotropic water removal for 4 h. The reaction mixture was cooled to 20° C. and stirred for 18 h. The precipitated solid was filtered, washed with toluene (2×10 mL) and dried to give 16.1 g (35 mmol) of N-(4-(4-fluorophenyl)-5-((E)-2-((2S,4R)-4-hydroxy-6-oxotetrahydro-2H-pyran-2-yl)vinyl)-6-isopropylpyrimidin-2-yl)-N-methylmethanesulfonamide as a white solid. 1H NMR (300 MHz, CDCl3) δ 7.62 (dd, 2H), 7.11 (dd, 2H), 6.72 (dd, 1H), 5.48 (dd, 1H), 5.28-5.20 (m, 1H), 4.38-4.30 (m, 1H), 3.58 (s, 3H), 3.52 (s, 3H), 3.38-3.30 (m, 1H), 2.80-2.60 (m, 2H), 2.10-2.00 (m, 1H), 1.95-1.85 (m, 1H), 1.73-1.68 (m, 1H), 1.28 (d, 3H), 1.26 (d, 3H).

reactant | 2-((4R,6S)-6-((E)-2-(4-(4-fluorophenyl)-6-isopropyl-2-(N-methylmethylsulfonamido)pyrimidin-5-yl)vinyl)-2,2-dimethyl-1,3-dioxan-4-yl)acetate 4-methylpentan-2-yl ester | CC(CC(C)OC(C[C@@H]1OC(O[C@@H](C1)\C=C\C=1C(=NC(=NC1C(C)C)N(S(=O)(=O)C)C)C1=CC=C(C=C1)F)(C)C)=O)C | C31H44FN3O6S
reactant | rosuvastatin methyl ester | CC(C)C1=NC(=NC(=C1/C=C/[C@H](C[C@H](CC(=O)OC)O)O)C2=CC=C(C=C2)F)N(C)S(=O)(=O)C | C23H30FN3O6S
reactant | rosuvastatin methyl ester | 61 mmol, 30 g | CC(C)C1=NC(=NC(=C1/C=C/[C@H](C[C@H](CC(=O)OC)O)O)C2=CC=C(C=C2)F)N(C)S(=O)(=O)C | C23H30FN3O6S
reactant | NaOH | 2N | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | N-(4-(4-fluorophenyl)-5-((E)-2-((2S,4R)-4-hydroxy-6-oxotetrahydro-2H-pyran-2-yl)vinyl)-6-isopropylpyrimidin-2-yl)-N-methylmethanesulfonamide | 35 mmol, 16.1 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1\C=C\[C@H]1OC(C[C@@H](C1)O)=O)C(C)C)N(S(=O)(=O)C)C | C22H26FN3O5S
